Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
DOE
 
Major Surgical or Invasive Procedure:
___ line placement

 
History of Present Illness:
___ with h/o CAD s/p CABG in ___ w/ multiple MIs/stents post, 
ICM (EF 25% ___, s/p PPM/ICD placement in ___ (for h/o 
recurrent VT), Prostate Ca in remission, lymphoma, sarcoma, 
metastatic papillary renal cell CA to the lungs with mildine 
bulky LAD, ___ disease, prior GI bleed in ___, CKD with 
recent admit for ___, now presenting 
with SOB and found to have afib and volume overload.

Pt reports increased DOE over the past ___ feeling more SOB 
with less exertion and feeling residual SOB after the tacypnea 
associated with exertion. He reports SOB with as little as a few 
steps walking. He reports similar DOE last admission, that he 
felt better when rate increased from 40 to 70 and then has 
regressed since. He reports ___ h/o nonproductive cough, 
similar to cough in ___ when had ILI. He reports cough 
occasionally productive of whitish spuum. No fevers/chills, CP, 
nasal congestion, sore throat. He denies orthopnea, PND. Reports 
med compliance, no salt intake. Reports his ___ edema close to 
baseline. Feels his legs are tired walking and muscles are 
tight. No n/v, palpitations, diaphoresis. No BM in 5d. His 
weight is 195 today up from dry weight of 187.

Patient noted today to be in atrial flutter with worsening of 
his lower extremity edema as well as wheezing and shortness of 
breath at PCP visit earlier today. 

Pt recently admitted ___ for weakness and SOB and found to 
have ___, hyperkalemia and bradycardia. Cr of 3.8 on adm ___, 
improved to 2.8 on discharge ___. Pt put on bicarb tabs for 
acidosis ___ renal failure. The bradycardia was felt to be in 
the setting of hyperkalemia and the lower rate of the patient's 
ICD was transiently increased to 70 during the admission 
(baseline is VVI 40).
  
In the ED, initial vital signs were 97.8, 75, 121/69, 18, 96% 
RA. Labs notable for WBC of 6.6, BUN/Cr 57/2.5, K of 5.9, 
lactate of 3.4, BNP of 6752, trop of 0.03. UA neg (2WBC, trace 
leuk). CXR showed volume overload. Patient was given 40 IV 
lasix. Renal was called and recommended continuing diuresis and 
no need for urgent dialysis. Pt given calcium gluconate, 10u of 
insulin and 1 amp of D50. Cards also called and recommended 
admitting pt for IV diuresis. Pt given nebs; refused foley. 
Vitals on transfer: 97.9 62 110/63 17 97% RA. Pt put out 490cc 
UOP in the ED.
 
On the floor, pt is without complaints. Denies pain, SOB. No CP, 
orthopnea, PND. 
 
Past Medical History:
- stage IV CKD  
- CAD s/p CABG ___, IMI ___ and ___, s/p multiple PCI  
- pacer/AICD placement in ___ for recurrent VT
- Prostate Cancer in remission with stable PSA, followed by 
heme-onc  
- renal papillary carcinoma with known pulmonary and 
retroperitoneal involvement on staging in ___  
- lymphoma  
- left leg sarcoma s/p two courses of palliative radiation 
therapy  
- multiple pulmonary nodules, likely metastatic  
- Lower extremity venous stasis  
- ___ Disease  
- Gallstones  
- Gout  
- hypertension  
- Melena: ___, EGD showed mild gastritis, colonoscopy showed 3 
sessile nonbleeding polyps in ascending colon; episode of GI 
bleed requiring 20U pRBC ___  

 
Social History:
___
Family History:
Father died at age ___ from embolism. No history of early CAD,  
sudden cardiac death. No DM.
 
Physical Exam:
Admission PE:
Vitals: 98, 61, 124/68, 20, 100% RA
General- pleasant elderly gentleman, comfortable, lying 
relatively flat in bed, in NAD 
HEENT- Sclera anicteric, dry MM, oropharynx clear  
Neck- supple, JVP at 14cm
CV - regular, holosystolic murmur, no appreciable S1 or S2
Lungs- diffuse expiratory wheezes, L basilar inspiratory coarse 
rales; breathing comfortably, no accessory muscle use, speaks in 
full sentences  
Abdomen- soft, non-tender, non-distended, bowel sounds present
GU- condom cath
Ext- feet mildly cool, 2+ pitting edema to the hips slightly 
more pitting on L than R in thighs, stasis dermatitis worse on L 
than R
- L foot with 1.5cm raised nodule with overlying black eschar; L 
proximal knee with soft tissue nodule with overlying skin 
discoloration of purplish-greyish appearance
Neuro- A&Ox3, grossly intact
.

Patient deceased 
 
Pertinent Results:
Admission Labs:
___ 12:58PM   LACTATE-3.4* K+-5.9*
___ 12:47PM   GLUCOSE-133* UREA N-57* CREAT-2.5* SODIUM-135 
POTASSIUM-7.2* CHLORIDE-103 TOTAL CO2-20* ANION GAP-19
___ 12:47PM   ALT(SGPT)-49* AST(SGOT)-144* LD(LDH)-892* ALK 
PHOS-102 TOT BILI-0.7
___ 12:47PM   cTropnT-0.03* proBNP-6752*
___ 12:47PM   WBC-6.6 RBC-3.43* HGB-10.0* HCT-35.3* 
MCV-103* MCH-29.3 MCHC-28.4* RDW-16.1*
___ 12:47PM   NEUTS-69.5 ___ MONOS-7.1 EOS-1.7 
BASOS-1.3
___ 12:47PM   PLT COUNT-152
___ 12:47PM   ___ PTT-31.8 ___
.
>> IMAGING:
- CXR ___: New left lower lobe consolidation worrisome for 
pneumonia. Extensive metastatic disease and mild-to-moderate 
cardiomegaly are stable.
.
- CT chest ___:
1.  New left upper lobe consolidation appears post-obstructive 
and is
concerning for pneumonia. Bilateral pleural effusions with lower 
lobe
opacities that are predominantly atelectasis.
2.  Substantial increase in size and number of diffusely 
distributed bilateral pulmonary metastases compared to ___ 
chest CT, though similar to recent radiographs.
3.  Aortic valve calcifications of indeterminate hemodynamic 
significance.
.
- TTE ___: The left atrium is mildly dilated. There is mild 
symmetric left ventricular hypertrophy with normal cavity size. 
There is moderate to severe regional left ventricular systolic 
dysfunction with near akinesis of the anterior septum and 
anterior walls and dyskinesis/aneurysm of the apex. The basal 
segments contract best (LVEF 25%). No intraventricular thrombus 
is seen, but technical quality is suboptimal. The right 
ventricular cavity is dilated with depressed free wall 
contractility. [Intrinsic right ventricular systolic function is 
likely more depressed given the severity of tricuspid 
regurgitation.] The aortic valve leaflets are moderately 
thickened. Significant aortic stenosis cannot be excluded. Trace 
aortic regurgitation is seen. The mitral valve leaflets are 
mildly thickened. Mild to moderate (___) mitral regurgitation 
is seen. The tricuspid valve leaflets are mildly thickened. 
Moderate [2+] tricuspid regurgitation is seen. There is mild 
pulmonary artery systolic hypertension. Significant pulmonic 
regurgitation is seen. There is no pericardial effusion.
IMPRESSION: Suboptimal image quality. Mild symmetric left 
ventricular hypertrophy with extensive regional systolic 
dysfunction and apical aneurysm c/w multivessel CAD. Right 
ventricular cavity dilation with free wall hypokinesis. Moderate 
tricuspid regurgitation. Mild-moderate mitral regurgitation. 
Pulmonary artery hypertension. Compared with the prior study 
(images reviewed) of ___, the findings are similar.  
.
- LENIs ___:
1. No bilateral lower extremity deep venous thrombosis.
2. No hernia.
.
>> MICRO:
- bl cx: pending
- ucx: <10,000 organisms
- sputum ___:    
GRAM STAIN (Final ___: <10 PMNs and >10 epithelial 
cells/100X field. Gram stain indicates extensive contamination 
with upper respiratory secretions.
.
 
Brief Hospital Course:
___ with h/o CAD s/p CABG in ___ w/ multiple MIs/stents post, 
ICM (EF 25% ___ s/p ICD placement in ___ (for h/o 
recurrent VT), Prostate Ca in remission, lymphoma, sarcoma, 
metastatic papillary renal cell CA to the lungs with mildine 
bulky LAD, ___ disease, prior GI bleed in ___, CKD 
presenting with SOB and found to have afib and volume overload. 
Course not complicated by worsening renal failure and acute on 
chronic anemia.

++++++++++++++++++++++++
During the course of Mr. ___ stay his clinical status 
deteriorated and it was not felt that aggressive treatment was 
within his goals of care.  Palliative care was consulted and he 
was made CMO at the expressed wishes of himself and his sons.  
He passed on ___ very comfortable with his family at his 
bedside.
=========================
.
>> Active issues:
# Dyspnea, volume overload: No hypoxemia and pt looked well on 
admission. Pt appeared volume overloaded on exam with 8lb wt 
gain from dry wt suggestive of fluid retention. Suspect dyspnea 
may be multifactorial from acute-subacute CHF exacerbation 
(worsening over ___ in setting of underlying innumerable 
pulmonary mets and possible HCAP. Trigger for CHF exacerbation 
not entirely clear but suspect related to being off of 
spironolactone and starting Na-bicarb tabs (increased daily Na). 
DDx also includes contribution from renal failure, extrinsic 
compression of IVC preventing ___ venous return. Considered 
possibility of PE as well in the pt with multiple malignancies 
but felt less likely given pt not tachycardic or hypoxemic, 
LENIs negative. Pt diuresed with IV lasix (40mg IV). ACE wraps 
used for compression to help mobilize fluid from ___. TTE without 
change in EF. ___ consulted and pt without ambulatory 
desaturations. Pt returned to dry wt on ___ (wt 186lb). I/Os and 
wts subsequently difficult to monitor. UOP significantly 
decreased and pt appeared more volume overload. Respiratory 
status acutely worsened on evening of ___ prompting ICU 
transfer.
.
# Acute on chronic renal failure: Cr was stable with diuresis in 
2.4-2.7 range and uptrended after diuresis held starting ___. Cr 
reached 4-range and pt became oliguric. DDx for worsening renal 
failure includes prerenal RF in the setting of diureis and acute 
anemia, ATN as BPs soft during admission (SBPs 80-90s and 
possibly further hypotension not documented); less likely AIN as 
urine eso neg and no peripheral eos (also no rash). FEurea 18% 
and UA with numerous hyaline casts suggestive of prerenal 
etiology though urine lytes difficult to interpret in the 
setting of oliguria. Renal followed. Pt likely to need HD but 
not pursued with change in GOCs on ICU transfer.
.
# Acute on Chronic Anemia: Hct has downtrended from 35 to ___ s/p 
1u pRBCs. Baseline Hct in low ___ recently, mildly macrocytic 
anemia. Anemia likely related to intramuscular hematoma and 
flank ecchymosis. CT without evidence of RP bleed. No evidence 
of hemolysis on labs. Hct relatively stable with mild downtrend 
after transfusion.
.
# HCAP: Admission CXR with new LLL consolidation but clinically 
pt without signs of infection including fevers, leukocytosis. 
DDx included effusion, atelectasis, PNA. Cough present so Pulm 
consulted per attending recs. Before starting ABX, pt went for 
non-con CT chest to better evaluate LLL consolidation that was 
difficult to assess on CXR. CT showed LUL consolidation 
concerning for post-obstructive PNA. Pt started on HCAP coverage 
with vanc/cefepime/levoflox on ___ per pulm recs. Plan for 8d 
course of HCAP coverage. PICC line placed.
.
# Hyperkalemia: s/p calcium gluconate, insulin/D50 and lasix in 
ED. K subsequently stable with diuresis.
.
# Afib: chronic AF, which is adequately rate controlled today; 
The patient is not on anticoagulation for AF given prior hx of 
GIB. EP does not believe afib likely significant contributor to 
fluid retention. Continued amiodarone and ASA.
.
# R flank ecchymosis: developed ___ over span of approx 8hrs. 
Etiology not entirely clear. Pt believes related to jostling 
during transport to CT scan. Ecchymosis is quite extensive and 
unlikely to be related simply to heparin injection. Considered 
possibility of spontaneous RP bleed. Monitor Hct closely.
.
# Elevated lactate, resolved: likely related to volume overlaod 
and poor perfusional state; improved with diuresis
.
>> Chronic issues:
# sCHF/ICM, CAD:cont ASA 325, atorva, Plavix, metop as tartrate
.
# ___: cont sinemet
.
# H/o Prostate Ca/BPH: cont finasteride
.
# H/o Gout: cont allopurinol 
.
# GERD:  cont ranitidine
.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Aspirin 325 mg PO DAILY 
3. Atorvastatin 60 mg PO HS 
4. Carbidopa-Levodopa (___) 1 TAB PO TID 
5. Clobetasol Propionate 0.05% Ointment 1 Appl TP DAILY both 
legs 
6. Clopidogrel 75 mg PO DAILY 
7. Clotrimazole Cream 1 Appl TP DAILY 
8. Finasteride 5 mg PO DAILY 
9. Fish Oil (Omega 3) 1000 mg PO DAILY 
10. imiquimod *NF* 5 % Topical 3X/WEEK (MWF) apply to black 
eschar on L foot 
11. Multivitamins 1 TAB PO DAILY 
12. Mupirocin Cream 2% 1 Appl TP DAILY 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Ranitidine 150 mg PO DAILY 
15. Torsemide 2.5 mg PO DAILY 
16. Metoprolol Succinate XL 50 mg PO DAILY 
17. Sodium Bicarbonate 650 mg PO TID 
18. coenzyme Q10 *NF* 200 mg Oral daily 
19. Vitamin D 1000 UNIT PO DAILY 
20. Amiodarone 400 mg PO DAILY 

 
Discharge Medications:
Patient deceased 
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
patient deceased
 
Discharge Condition:
Patient deceased 
 
Discharge Instructions:
patient deceased 
 
Followup Instructions:
___